US05596094
A mixture of 270.6 g of inosine-2',3',5'-tripropionate, 240 ml of N,N-dimethylformamide and 600 ml of toluene is heated to 65° C.; and over a period of 1 hour, 67.84 ml of thionyl chloride are added at a rate which maintains the internal temperature between 62°-65° C. The mixture is stirred at this temperature for an additional 2.5 hours and then cooled to 10° C. with an ice bath. After addition of 600 ml of water precooled to 10°-15° C. in an ice bath at a rate which maintains the temperature below 20° C., the organic layer is separated and washed with a total of 800 ml of 10% aqueous sodium chloride in four equal portions of 200 ml each. The organic layer containing crude 6-chloro-9-(2,3,5-tri-O-propionyl-β-ribofuranosyl)-9H-purine is added with stirring to 620 ml of cyclohexylamine heated to 105° C. over a period of 2 hours at a rate which maintains the internal temperature at 105° C. After this mixture is stirred at this temperature for an additional 17 hours, it is cooled to room temperature (25° C.) over approximately 2 hours with efficient stirring and then filtered in a Buchner funnel with suction. The solid containing N6 -cyclohexyladenosine and cyclohexylamine hydrochloride is washed with a total of 460 ml of toluene in four equal portions of 115 ml. each and transferred damp to a 5-liter flask equipped with a mechanical stirrer. After addition of 2 liters of aqueous saturated sodium bicarbonate solution and 2.5 liters of ethyl acetate, the mixture is stirred until all the solid dissolve (approximately 10-15 min.). The organic layer is separated; and the aqueous layer is extracted with 1.5 liters of ethyl acetate in two portions of 1 liter and 500 ml., respectively. The organic layers are combined and evaporated until about 3 liters of ethyl acetate (at 40° C., 100-200 mbar) is removed. To the residue, 500 ml. of heptane is added; and the resulting mixture is stirred for 30 minutes. The solids are separated on a Buchner funnel, and washed with a total of 300 ml of heptane in three equal portions of 100 ml each. The solids are then dried at 45°-50° C. (30-35 mbar) for approximately 3 hours to yield 148 g of crude N6 -cyclohexyladenosine as a white solid. This is transferred to a 1 liter round-bottomed flask equipped with a mechanical stirrer, and 175 ml. of 95% ethanol are added. The suspension is stirred for 15-20 min and 175 mL of tert-butyl ethyl ether are added. After stirring for 5 min, the suspension is cooled in an ice bath and stirred for an additional 15 minutes. This suspension is filtered in a Buchner funnel and washed with a total of 50 ml. of tert-butyl methyl ether in two equal portions of 25 ml. each. The solid is dried at 45°-50° C. (30-35 mbar) for 14 hours to yield 130 g of N6 -cyclohexyladenosine as a white solid (m.p. 185°-187° C.; yield 60.0%).

reactant | inosine-2',3',5'-tripropionate | 270.6 g | [C@@H]1([C@](O)([C@](O)([C@@H](C(O)CCC(=O)[O-])O1)CCC(=O)[O-])CCC(=O)[O-])N1C=NC=2C(O)=NC=NC12
reactant | N,N-dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 67.84 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | 600 ml | O | H2O
product | N6 -cyclohexyladenosine | 148 g | C1(CCCCC1)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C16H23N5O4
